US07674797B2
To the suspension of lithium aluminum hydride (1.54 g, 40.6 mmol) was added 1,4-dibenzyl-piperazine-2-carboxylic acid methyl ester (3.00 g, 9.25 mmol) portionwise at room temperature. The reaction mixture was stirred at reflux for 3 hours. After cooled to 0° C., 1.5 ml of water, 1.5 ml of 4N NaOH aq., and 4.5 ml of water was added successively. The mixture was stirred for 1 hour, and the white precipitate was filtered off with celite pad. The filtrate was concentrated in vacuo to give (1,4-dibenzyl-piperazin-2-yl)-methanol (2.74 g, quant.) as a yellow oil: HPLC-MS (ESI): Calcd for C19H24N2O[M+H]+297, found: 297.

reactant | lithium aluminum hydride | 40.6 mmol, 1.54 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,4-dibenzyl-piperazine-2-carboxylic acid methyl ester | 9.25 mmol, 3.00 g | COC(=O)C1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H24N2O2
reactant | NaOH | 4N, 1.5 ml | [OH-].[Na+]
solvent | water | 4.5 ml | O | H2O
solvent | water | 1.5 ml | O | H2O
product | (1,4-dibenzyl-piperazin-2-yl)-methanol | 2.74 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
